data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2450,2718,[CH3:18][C:19](=[O:20])[c-:21]1[c:22](=[O:23])[o:24][c:25](-[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[n+:32]1[CH3:33].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:21]1([C:19]([CH3:18])=[O:20])[C:22](=[O:23])[O:24][C:25]2([c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[N:32]1[CH3:33],water,298.15,28.17230979890371,-7.432483543974523
4984,5671,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([O:12][CH3:11])=[O:14])[N:16]([CH3:17])[C:18]2([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,24.559710946517548,-7.467199679625184
381,413,[CH3:10][O:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][N-:17][C:18]([CH3:19])=[O:20].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]12[C:3]([F:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[N:17]([C:18]([CH3:19])=[O:20])[NH:16][C:14]2([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,21.942209419466185,-42.18864009617151
3501,3992,[CH2:11]=[NH+:12][C-:13]([CH3:14])[C:15](=[O:16])[O:17][CH3:18].[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH2:11][NH:12][C:13]2([CH3:14])[C:15](=[O:16])[O:17][CH3:18],water,298.15,20.025931370633952,-16.15936827894651
5136,5831,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH-:15][N+:16]([CH3:17])=[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:15]([C:13]([O:12][CH3:11])=[O:14])[N:16]([CH3:17])[C:18]2([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,32.114947084175235,-17.2597599585424
5227,5930,[CH3:10][O:11][C:12](=[O:13])[C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N+:21]([CH3:22])=[C:23]([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:23]([C:24]([CH3:25])=[O:26])([c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[N:21]([CH3:22])[C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,46.4011592804174,-7.445864621659986
1870,2074,[CH3:12][NH:13][C:14](=[O:15])[C:16]#[N+:17][C-:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])=[N:17][C:18]2([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,8.838746142993706,-25.30151850072329
4158,4761,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[c:12]1[nH+:13][c-:14](-[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[c:21](=[O:22])[o:23]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:14]1([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[NH:13][C:12]2([C:10]([CH3:9])=[O:11])[O:23][C:21]1=[O:22],water,298.15,16.87360769661409,2.087178707908186
2299,2549,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[NH:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[F:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15](=[O:16])[NH:17][CH3:18])[N:19]([CH3:20])[C:21]2([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,37.633490989117405,-22.33296943359176
654,714,[CH3:12][C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[C:19](=[O:20])[O:21][CH3:22].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:13]([CH3:12])=[N:14][C:15]2([C:16]([CH3:17])=[O:18])[C:19](=[O:20])[O:21][CH3:22],water,298.15,22.103232932686986,-32.98188985563123
3424,3894,[CH3:10][c-:11]1[nH+:12][c:13]([C:14]#[N:15])[o:16][c:17]1=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:11]2([CH3:10])[NH:12][C:13]1([C:14]#[N:15])[O:16][C:17]2=[O:18],water,298.15,22.66519490241768,-6.9919935660423205
